* C:\Users\matth\MooreSTI011.asc
V§CLK clk 0 PULSE(0V 5V 0.s 0.00001s 0.00001s 0.001s 0.002s 5)
V§E e 0 PULSE(0V 5V 0.002s 0.00001s 0.00001s 0.005s 0.01s 1)
XE1 N003 clk N001 NC_01 D_flipflop
XE0 N007 clk N005 N006 D_flipflop
V1 NC_02 0 5
XU2 N001 N005 N002 and2
XU3 e N004 not
XU4 N002 N004 N003 or2
XU1 N004 N008 N007 or2
XU5 N001 N006 N008 and2
XU7 N001 N006 s and2
.inc eea.lib
.tran 0.01s
.lib eea_digital.lib
.backanno
.end
